US07943715B2
There were supplied 325 mg of 2,6-diacetylpyridine manufactured by Aldrich Chemical Company to a 25 mL-Schlenk tube. Thereto, 5 mL of anhydrous ethanol manufactured by Kanto Chemical Co., Inc., 0.62 mL of 2-methyl-6-isopropylaniline manufactured by Tokyo Chemical Industry Co., Ltd., and a few drops of acetic acid manufactured by Kanto Chemical Co., Inc. were added. The obtained mixture was refluxed for 24 hours. Then, the solvent contained in the mixture was distilled off, and the resultant mixture was subjected to recrystallization with methanol, thereby obtaining 298 mg (yield: 35%) of 2,6-bis[1-(2-methyl-6-isopropylphenylimino)ethyl]pyridine as a yellow powder.

reactant | 2,6-diacetylpyridine | 325 mg | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | 2-methyl-6-isopropylaniline | 0.62 mL | CC1=C(N)C(=CC=C1)C(C)C | C10H15N
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2,6-bis[1-(2-methyl-6-isopropylphenylimino)ethyl]pyridine | 298 mg, yield: 35% | CC1=C(C(=CC=C1)C(C)C)N=C(C)C1=NC(=CC=C1)C(C)=NC1=C(C=CC=C1C(C)C)C | C29H35N3
